US04048306
Diethylphosphonoacetaldehyde-erythromycylamine condensation product by method A
A mixture consisting of 23 gm (0.03 mol) of erythromycylamine, 10 gm (0.055 mol) of diethylphosphonoacetaldehyde and 300 ml of absolute dioxane was stirred at room temperature for 24 hours. After evaporation of the solvent, the residue was taken up in 150 ml of hot acetonitrile, and the solution was mixed with 750 ml of water. Upon cooling 13 gm (43% of theory) of colorless crystals precipitated, which were dried at 80° C in vacuo. M.p. 110°-113° C (decomp.).

reactant | erythromycylamine | 0.03 mol, 23 gm | CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | C37H70N2O12
reactant | diethylphosphonoacetaldehyde | 0.055 mol, 10 gm | C(C)OP(=O)(OCC)CC=O | C6H13O4P
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | Diethylphosphonoacetaldehyde erythromycylamine | C(C)OP(=O)(OCC)CC=O.CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | InChI=1S/C37H70N2O12.C6H13O4P/c1-14-25-37(10,45)30(41)20(4)27(38)18(2)16-35(8,44)32(51-34-28(40)24(39(11)12)15-19(3)47-34)21(5)29(22(6)33(43)49-25)50-26-17-36(9,46-13)31(42)23(7)48-26;1-3-9-11(8,6-5-7)10-4-2/h18-32,34,40-42,44-45H,14-17,38H2,1-13H3;5H,3-4,6H2,1-2H3/t18-,19-,20+,21+,22-,23+,24+,25-,26+,27+,28-,29-,30-,31+,32-,34+,35-,36-,37-;/m1./s1
